US04565425
1.63 g of 4-(trans-1-pentenyl)cyclohexanone were dissolved in 8 ml of diethyl ether and 14 ml of ethanol. Subsequently, the solution was treated dropwise with about 70 ml of ammonia and portionwise with lithium wire until the colour of the mixture remained constant for 1.5 hours (about 1.3 g of lithium). Thereafter, the ammonia was removed by evaporation and the mixture was made acid with ammonium chloride and hydrochloric acid and left to stand for 3 days. The mixture was then partitioned in diethyl ether/water and the aqueous phases were back-extracted with diethyl ether. The organic phases were dried over magnesium sulphate, filtered and freed from solvent on a rotary evaporator. Low-pressure chromatography of the resulting, yellow oil on silica gel with ethyl acetate/petroleum ether (vol. 10:90) gave 1.47 g (89.1%) of trans-4-(trans-1-pentenyl)cyclohexanol as a light yellow, viscous oil.

reactant | 4-(trans-1-pentenyl)cyclohexanone | 1.63 g | C(=C\CCC)/C1CCC(CC1)=O | C11H18O
reactant | ammonia | about 70 ml | N | H3N
reactant | lithium | [Li] | Li
reactant | lithium | about 1.3 g | [Li] | Li
solvent | diethyl ether | 8 ml | C(C)OCC | C4H10O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | trans-4-(trans-1-pentenyl)cyclohexanol | 1.47 g, 89.1% | C(=C\CCC)/[C@@H]1CC[C@H](CC1)O | C11H20O
